US07795267B2
N-[2-[Cyclopropyl(ethyl)amino]ethyl]-tetrahydro-3-oxo-1,1-diphenyl-3H-oxazolo[3,4-a]pyrazine-7(1H)-carboxamide hydrochloride
To a solution of N-[2-(cyclopropylamino)ethyl]-tetrahydro-3-oxo-1,1-diphenyl-3H-oxazolo[3,4-a]pyrazine-7(1H)-carboxamide hydrochloride (0.15 g, 0.33 mmol), triethylamine (67 mg, 0.66 mmol) and 90% acetaldehyde (0.040 mL, 0.64 mmol) in 1,2-dichloroethane (5 mL) was added sodium triacetoxyborohydride (0.14 g, 0.66 mmol), and the mixture was stirred at room temperature for 13 hours. The reaction solution was diluted with water and then extracted with ethyl acetate. The organic layer was washed with water and saturated brine and dried over magnesium sulfate. The solid was filtered off, and the filtrate was concentrated. The residue was purified with amino silica gel column chromatography (hexane:ethyl acetate=1:1 to ethyl acetate) and concentrated. A 4 M hydrogen chloride/ethyl acetate solution (5 mL) was added thereto, and then concentrated. The residue was crystallized from diethyl ether to obtain the title compound (54 mg, yield 34%).

reactant | N-[2-(cyclopropylamino)ethyl]-tetrahydro-3-oxo-1,1-diphenyl-3H-oxazolo[3,4-a]pyrazine-7(1H)-carboxamide hydrochloride | 0.33 mmol, 0.15 g | Cl.C1(CC1)NCCNC(=O)N1CC2N(CC1)C(OC2(C2=CC=CC=C2)C2=CC=CC=C2)=O
reactant | triethylamine | 0.66 mmol, 67 mg | C(C)N(CC)CC | C6H15N
reactant | acetaldehyde | 0.64 mmol, 0.040 mL | C(C)=O | C2H4O
reactant | sodium triacetoxyborohydride | 0.66 mmol, 0.14 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | 1,2-dichloroethane | 5 mL | ClCCCl | C2H4Cl2
solvent | water | O | H2O
product | N-[2-[Cyclopropyl(ethyl)amino]ethyl]-tetrahydro-3-oxo-1,1-diphenyl-3H-oxazolo[3,4-a]pyrazine-7(1H)-carboxamide hydrochloride | 54 mg, yield 34% | Cl.C1(CC1)N(CCNC(=O)N1CC2N(CC1)C(OC2(C2=CC=CC=C2)C2=CC=CC=C2)=O)CC | InChI=1S/C26H32N4O3.ClH/c1-2-28(22-13-14-22)16-15-27-24(31)29-17-18-30-23(19-29)26(33-25(30)32,20-9-5-3-6-10-20)21-11-7-4-8-12-21;/h3-12,22-23H,2,13-19H2,1H3,(H,27,31);1H
